US05631401
N-Phenyl-N'-propionyl-1,4-phenylenediamine
A stirred mixture of 1.84 g (10.0 mmol, 1 eq.) of commercial N-phenyl-1,4-phenylenediamine (a black solid) and 1.18 g (14.0 mmol, 1.4 eq.) of NaHCO3 in 40 mL of CH2Cl2 was cooled to 0° C. To this suspension was added a solution of 0.96 mL (11.0 mmol, 1.1 eq.) of propionyl chloride in 10 mL of CH2Cl2 dropwise. The ice bath was removed and the mixture stirred for 1 hour and then poured into a seperatory funnel containing 50 mL of each CH2Cl2 and water. The organic phase was separated and extracted with 50 mL of saturated aqueous NaHCO3 solution, dried over MgSO4, filtered and concentrated. The residue was purified by flash column chromatography on silica gel eluting with 1:1 ethyl acetate-hexanes to give 1.79 g (75%) of the product. 1H NMR (300MHz, CDCl3) δ 7.41 (d, 2H), 7.21-7.43 (m, 2H), 7.14 (bs, 1H), 6.96-7.07 (m, 4H), 6.90 (t, 1H), 5.66 (bs, 1H), 2.38 (q, 2H), 1.25 (t, 3H). MS (DCl) m/e 258 (M+NH4 +), 241 (M+H+).

reactant | N-phenyl-1,4-phenylenediamine | 10.0 mmol, 1.84 g, 1 eq. | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
reactant | NaHCO3 | 14.0 mmol, 1.18 g, 1.4 eq. | C(=O)(O)[O-].[Na+]
reactant | propionyl chloride | 11.0 mmol, 0.96 mL, 1.1 eq. | C(CC)(=O)Cl | C3H5ClO
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-Phenyl-N'-propionyl-1,4-phenylenediamine | 1.79 g, 75% | C1(=CC=CC=C1)NC1=CC=C(C=C1)NC(CC)=O | C15H16N2O
